US07101880B2
A solution of 2-benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid diethyl ester (0.520 g) in ethanol (5 mL) was treated with sodium hydroxide (2.91 mL, 1 N) and then stirred at room temperature for 8 h. The reaction mixture was diluted with water and acidified with HCl and the product was then extracted with ethyl acetate to give 2-benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid monoethyl ester (0.461 g).

reactant | 2-benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid diethyl ester | 0.520 g | C(C)OC(C(C(=O)OCC)(CC(CC)CC)NC(=O)OCC1=CC=CC=C1)=O | C21H31NO6
reactant | sodium hydroxide | 1 N, 2.91 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid monoethyl ester | 0.461 g | C(C)OC(C(C(=O)O)(CC(CC)CC)NC(=O)OCC1=CC=CC=C1)=O | C19H27NO6
